US08802853B2
Diethyl 1-diazo-2-oxopropylphosphonate (9.6 g, 1.2 eq.) was added to a solution of 4-(2-ethyl-1H-imidazo[4,5-c]quinolin-1-yl)butanal (11.15 g, 41.7 mmol, 1 eq.) and potassium carbonate (11.6 g, 2 eq.) in methanol. The reaction mixture was stirred until analysis by TLC indicated that all of the starting material had been consumed. The reaction mixture was filtered and the filter cake was rinsed until clear. The filtrate was concentrated under reduced pressure to provide crude product as an oil. The oil was partitioned between dichloromethane (200 mL) and water (100 mL). The organic layer was washed sequentially with water and brine (2×100 mL) and then concentrated under reduced pressure to provide 8.8 g of 2-ethyl-1-(4-pentynyl)-1H-imidazo[4,5-c]quinoline.

reactant | Diethyl 1-diazo-2-oxopropylphosphonate | 9.6 g, 1.2 eq. | [N+](=[N-])=C(C(C)=O)P(OCC)(OCC)=O | C7H13N2O4P
reactant | 4-(2-ethyl-1H-imidazo[4,5-c]quinolin-1-yl)butanal | 41.7 mmol, 11.15 g, 1 eq. | C(C)C=1N(C2=C(C=NC=3C=CC=CC23)N1)CCCC=O | C16H17N3O
reactant | potassium carbonate | 11.6 g, 2 eq. | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | CO | CH4O
product | 2-ethyl-1-(4-pentynyl)-1H-imidazo[4,5-c]quinoline | 8.8 g | C(C)C=1N(C2=C(C=NC=3C=CC=CC23)N1)CCCC#C | C17H17N3
